US07169797B2
methyl 2,6-dihydroxy-3-nitrobenzoate
1M HNO3 in acetic acid (10 mL, 10.0 mmol) was added dropwise to a solution of 2,6-dihydroxybenzoate (1.68 g, 10.0 mmol) in acetic acid (10 mL) at ambient temperature. The reaction mixture was stirred for 2 hours. The precipitant was filtered and washed with water and acetone, dried to provide the titled compound (1.08 g). MS (ESI(−)) m/e 212 (M−H)+; 1H NMR (300 MHz, DMSO-d6) δ 11.71(bs, 1H), 10.93 (bs, 1H), 8.04 (d, J=9.5 Hz, 1H), 6.60(d, J=9.5 Hz, 1H).

reactant | HNO3 | 1M | [N+](=O)(O)[O-] | HNO3
reactant | 2,6-dihydroxybenzoate | 10.0 mmol, 1.68 g | OC1=C(C(=O)[O-])C(=CC=C1)O
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 10.0 mmol, 10 mL | C(C)(=O)O | C2H4O2
product | methyl 2,6-dihydroxy-3-nitrobenzoate | 1.08 g | OC1=C(C(=O)OC)C(=CC=C1[N+](=O)[O-])O | C8H7NO6
